US07799787B2
2-(Benzyloxy)-N-(6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-yl)acetamide
The title compound was prepared in the same manner as described for Example 25, step 2 from 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-amine and benzyloxyacetic acid.

reactant | 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-amine | FC(C1=C(OC2CCN(CC2)C2=CC=C(C=N2)N)C=CC=C1)(F)F | C17H18F3N3O
reactant | benzyloxyacetic acid | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
product | 2-(Benzyloxy)-N-(6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-yl)acetamide | C(C1=CC=CC=C1)OCC(=O)NC=1C=NC(=CC1)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C26H26F3N3O3
